US08193349B2
To a solution of cyclopentane-1,1-dicarboxylic acid methyl ester (1.00 g, 5.81 mmol) and triethylamine (808 uL, 5.81 mmol) in THF (15 mL) is added isobutyl chloroformate (750 uL, 5.81 mmol) at 0° C. The mixture is stirred at 0° C. for 20 minutes. The mixture is filtrated, and the filtrate is added to a suspension of NaBH4 (242 mg) in THF (15 ml) at 0° C. The mixture is stirred at 0° C. for 3 hours and at room temperature for 12 hours. To the mixture, H2O is added and the mixture is extracted with AcOEt. The organic layer is dried over MgSO4, and concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give 1-hydroxymethyl-cyclopentanecarboxylic acid methyl ester (433 mg, 47%); TLC (hexane/AcOEt, 1:1) Rf 0.43, 1H NMR (400 MHz, chloroform-d) δ ppm 1.61-1.77 (m, 6H), 1.93-2.00 (m, 2H), 2.53 (m, 1H), 3.57 (d, 2H), 3.72 (s, 3H).

reactant | cyclopentane-1,1-dicarboxylic acid methyl ester | 5.81 mmol, 1.00 g | COC(=O)C1(CCCC1)C(=O)O | C8H12O4
reactant | triethylamine | 5.81 mmol, 808 uL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 5.81 mmol, 750 uL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-hydroxymethyl-cyclopentanecarboxylic acid methyl ester | 433 mg, 47% | COC(=O)C1(CCCC1)CO | C8H14O3
